US05439928
a) 1-benzyl-5-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole
2,0 g of magnesium turnings are covered with 60 ml of dry tetrahydrofuran. To the mixture is then added dropwise a solution of 1-bromo-3,3-diphenylpropane (22,9 g) in 20 ml of dry tetrahydrofuran at such a rate that a smooth reaction is maintained. After the addition is complete, the reaction mixture is refluxed for one additional hour and cooled to room temperature. The reaction mixture is then added dropwise to a solution of 1-benzyl-5-imidazolecarbaldehyde (7,35 g) in 80 ml of tetrahydrofuran at 60° C. After the addition is complete, the reaction mixture is refluxed for 2 hours, cooled and poured into cold water. Tetrahydrofuran is evaporated and to the solution is added conc. hydrochloric acid. The solution is cooled and the precipitate which contains the product as hydrochloride salt is removed by filtration, washed with water and dried. Yield 14,1 g. M.p. 160°-168° C.

reactant | magnesium | 2,0 g | [Mg] | Mg
reactant | 1-bromo-3,3-diphenylpropane | 22,9 g | BrCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15Br
reactant | 1-benzyl-5-imidazolecarbaldehyde | 7,35 g | C(C1=CC=CC=C1)N1C=NC=C1C=O | C11H10N2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 1-benzyl-5-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O | C26H26N2O
